US07220734B2
5-Octyloxy-1-indanone
A solution of 5-hydroxy-1-indanone (1.00 g, 6.74 mmol), 1-iodooctane (1.34 mL, 7.42 mmol) and potassium carbonate (1.40 g, 10.12 mmol) were stirred together in acetonitrile at 80° C. After 3 h, the reaction was cooled, placed onto silica gel and eluted with 15% ethyl acetate/hexane to give 1.14 g of a white solid: 1H NMR (500 MHz, CDCl3): δ 7.67 (d, J=9.2 Hz, 1H), 6.88–6.90 (m, 2H), 4.03 (t, J=6.55 Hz, 2H), 3.08 (t, J=5.9 Hz, 2H), 2.67 (t, J=6.0 Hz, 2H), 1.80 (m, 2H), 1.42–1.50 (m, 2H), 1.24–1.38 (m, 8H), 0.89 (t, J=7.0 Hz, 3H); ESI-MS 261.1 (M+H).

reactant | 5-hydroxy-1-indanone | 6.74 mmol, 1.00 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | 1-iodooctane | 7.42 mmol, 1.34 mL | ICCCCCCCC | C8H17I
reactant | potassium carbonate | 10.12 mmol, 1.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-Octyloxy-1-indanone | 1.14 g | C(CCCCCCC)OC=1C=C2CCC(C2=CC1)=O | C17H24O2
